US04277495
A solution of 9-(4-aminobutyl)-9-aminocarbonylfluorene in benzene containing one equivalent of n-propyl bromide and triethylamine is stirredfor several hours. Removal of the reaction solvent and distillation of the product affords 9-(4-n-propylaminobutyl)-9-aminocarbonylfluorene.

reactant | 9-(4-aminobutyl)-9-aminocarbonylfluorene | NCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)N | C18H20N2O
reactant | benzene | one equivalent | C1=CC=CC=C1 | C6H6
reactant | n-propyl bromide | CCCBr | C3H7Br
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 9-(4-n-propylaminobutyl)-9-aminocarbonylfluorene | C(CC)NCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)N | C21H26N2O
